US06649643B1
Production of 6-[Cyclopropyl-hydroxy-(1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide
The similar reaction as described in Example 50-(i) was carried out by using N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (500 mg) and cyclopropyl-magnesium bromide in THF (1M; 4 mL) to give the titled compound (332 mg) as colorless powder.

reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 500 mg | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
reactant | cyclopropyl-magnesium bromide | C1(CC1)[Mg]Br
solvent | THF | 1M, 4 mL | C1CCOC1 | C4H8O
product | 6-[Cyclopropyl-hydroxy-(1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide | 332 mg | C1(CC1)C(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)(C=1N=CNC1)O | C19H19N3O2
